US05173493
A suspension of 10-ethyl-8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)one (285 mg) in methanol (20 ml) was treated with 12N hydrochloric acid (0.2 ml) and heated at 60° C. After concentration of the solution under reduced pressure to 3 ml, the solution was diluted with ether (6 ml) and allowed to stand at room temperature. The crystals were collected and washed with ether to give 10-ethyl-8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)one hydrochloride (273 mg).

reactant | 10-ethyl-8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)one | 285 mg | C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | C19H21N3O
reactant | hydrochloric acid | 12N, 0.2 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | ether | 6 ml | CCOCC | C4H10O
product | 10-ethyl-8,9-dihydro-7-[(5-methyl-1H-imidazol-4-yl)methyl]pyrido[1,2-a]indol-6(7H)one hydrochloride | 273 mg | Cl.C(C)C1=C2N(C3=CC=CC=C13)C(C(CC2)CC=2N=CNC2C)=O | InChI=1S/C19H21N3O.ClH/c1-3-14-15-6-4-5-7-17(15)22-18(14)9-8-13(19(22)23)10-16-12(2)20-11-21-16;/h4-7,11,13H,3,8-10H2,1-2H3,(H,20,21);1H
